US08076325B2
Preparation 25: 2-[{[(7S)-3,4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)amino]ethanol
At ambient temperature, 1.04 g (5 mmol) of {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}methylamine, 0.44 mL (6 mmol/1.2 eq.) of 2-bromoethanol and 2.07 g (15 mmol/3 eq.) of potassium carbonate are mixed into 10 mL of acetonitrile. Refluxing is carried out overnight, followed by drying. The residue is taken up in dichloromethane, washed with water and dried over magnesium sulphate to yield, after concentration, the desired product.

reactant | {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}methylamine | 5 mmol, 1.04 g | COC=1C=C2C[C@@H](C2=CC1OC)CNC | C12H17NO2
reactant | 2-bromoethanol | 6 mmol, 0.44 mL, 1.2 eq. | BrCCO | C2H5BrO
reactant | potassium carbonate | 15 mmol, 2.07 g, 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-[{[(7S)-3,4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}(methyl)amino]ethanol | COC=1C=C2C[C@@H](C2=CC1OC)CN(CCO)C | C14H21NO3
